US07674804B2
(2-Chloro-5-methoxy-pyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(2-chloro-5-methoxy-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.43 g, 4.17 mmol) in dichloromethane (10 mL) and 4 M HCl in dioxane (40 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 243.3 [M+H]+.

reactant | 4-(2-chloro-5-methoxy-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.17 mmol, 1.43 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC=C1OC)Cl | C15H23ClN4O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (2-Chloro-5-methoxy-pyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC1=NC=C(C(=N1)NC1CCNCC1)OC | InChI=1S/C10H15ClN4O.2ClH/c1-16-8-6-13-10(11)15-9(8)14-7-2-4-12-5-3-7;;/h6-7,12H,2-5H2,1H3,(H,13,14,15);2*1H
